US07169333B2
Perfluorobutanesulfonic acid benzyltrimethylammonium salt is prepared by neutralising perfluorobutanesulfonic acid and benzyltrimethylammonium hydroxide in aqueous solution. Benzyltrimethylammonium hydroxide is obtainable from Aldrich.

reactant | perfluorobutanesulfonic acid | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)O)F | C4HF9O3S
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
product | Perfluorobutanesulfonic acid benzyltrimethylammonium salt | C(C1=CC=CC=C1)[N+](C)(C)C.FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F | InChI=1S/C10H16N.C4HF9O3S/c1-11(2,3)9-10-7-5-4-6-8-10;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h4-8H,9H2,1-3H3;(H,14,15,16)/q+1;/p-1
